US08022222B2
Using the method of Example 3, Step A, 2,6-dimethylbenzenethiol (0.872 g, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to provide 2-chloro-4-(2,6-dimethylphenylthio)pyridine (1.35 g, 86% yield) as a white solid. 1H NMR (CDCl3) δ 8.07 (d, 1H), 7.22-7.34 (m, 3H), 6.75 (s, 1H), 6.71 (d, 1H), 2.40 (s, 6H).

reactant | 2,6-dimethylbenzenethiol | 6.31 mmol, 0.872 g | CC1=C(C(=CC=C1)C)S | C8H10S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(2,6-dimethylphenylthio)pyridine | 1.35 g, 86% yield | ClC1=NC=CC(=C1)SC1=C(C=CC=C1C)C | C13H12ClNS
